US07371772B2
To a solution of 5-((4-bromo-2-formyl-5-methylphenyl)(4-methoxybenzyl)amino)pentanoic acid (3.5 g) and potassium carbonate (1.34 g) DMF in (30 ml) was added dropwise a solution of iodomethane (1.6 g) in DMF (10 ml) under nitrogen atmosphere at 0° C. After returning to room temperature, the reaction mixture was stirred for 2 hours. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water five times and with saturated brine once, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure to give methyl 5-((4-bromo-2-formyl-5-methylphenyl)(4-methoxybenzyl)amino)pentanoate (3.5 g) as a brown oily material.

reactant | 5-((4-bromo-2-formyl-5-methylphenyl)(4-methoxybenzyl)amino)pentanoic acid | 3.5 g | BrC1=CC(=C(C=C1C)N(CCCCC(=O)O)CC1=CC=C(C=C1)OC)C=O | C21H24BrNO4
reactant | potassium carbonate | 1.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.6 g | IC | CH3I
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 5-((4-bromo-2-formyl-5-methylphenyl)(4-methoxybenzyl)amino)pentanoate | 3.5 g | BrC1=CC(=C(C=C1C)N(CCCCC(=O)OC)CC1=CC=C(C=C1)OC)C=O | C22H26BrNO4
